US08236826B2
Production of 6-{4-[3-(4-piperonylpiperazin-1-yl)-3-oxopropyl]phenoxy}-N-(3,4-dichlorophenyl)nicotinamide
To a solution of 6-{4-[3-(4-piperonylpiperazin-1-yl)-3-oxopropyl]phenoxy}nicotinic acid (1.23 g, 2.5 mmol) in THF (35 mL) was added N,N′-carbonyldiimidazole (540 mg, 3.3 mmol), and the resulting solution was stirred for 30 minutes at room temperature. The resulting reaction solution was concentrated under reduced pressure, and to the residue was added 3,4-dichloroaniline (4.07 g, 25 mmol). The resulting solution was stirred for 3 days at room temperature. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate), and the resulting product was recrystallized from diethyl ether, to thereby yield 510 mg of the title compound.

reactant | 6-{4-[3-(4-piperonylpiperazin-1-yl)-3-oxopropyl]phenoxy}nicotinic acid | 2.5 mmol, 1.23 g | C(C1=CC=2OCOC2C=C1)N1CCN(CC1)C(CCC1=CC=C(OC2=NC=C(C(=O)O)C=C2)C=C1)=O | C27H27N3O6
reactant | 3,4-dichloroaniline | 25 mmol, 4.07 g | ClC=1C=C(N)C=CC1Cl | C6H5Cl2N
solvent | THF | 35 mL | C1CCOC1 | C4H8O
product | 6-{4-[3-(4-piperonylpiperazin-1-yl)-3-oxopropyl]phenoxy}-N-(3,4-dichlorophenyl)nicotinamide | C(C1=CC=2OCOC2C=C1)N1CCN(CC1)C(CCC1=CC=C(OC2=NC=C(C(=O)NC3=CC(=C(C=C3)Cl)Cl)C=C2)C=C1)=O | C33H30Cl2N4O5
